US07259266B2
Sodium 6-Chloro-8-(4-methoxy-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of 6-chloro-8-(4-methoxy-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid 46.6 mg (0.117 mmole) in 2.0 mL of ethanol was treated with 1.160 mL of 0.1008N NaOH. The resultant mixture was lyophilized to provide a quantitative yield of a yellow solid: 1H NMR (CD3OD/400 MHz) 2.20 (s, 3H), 3.85 (s, 3H), 5.77 (q, 1H, J=6.8 Hz), 6.93 (d, 1H, J=8.0 Hz), 7.26-7.32 (m, 4H), 7.78 (s, 1H).

reactant | 6-chloro-8-(4-methoxy-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.117 mmole, 46.6 mg | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC(=C(C=C1)OC)C)C(F)(F)F)C(=O)O | C19H14ClF3O4
reactant | NaOH | 0.1008N, 1.160 mL | [OH-].[Na+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | Sodium 6-Chloro-8-(4-methoxy-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | quantitative yield | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC(=C(C=C1)OC)C)C(F)(F)F)C(=O)[O-].[Na+] | InChI=1S/C19H14ClF3O4.Na/c1-9-5-10(3-4-15(9)26-2)13-8-12(20)6-11-7-14(18(24)25)17(19(21,22)23)27-16(11)13;/h3-8,17H,1-2H3,(H,24,25);/q;+1/p-1
